US07244861B2
4.09 g of 2-{([(benzyloxy)carbonyl]amino}-3-(3-{[(t-butoxycarbonyl)amino]methyl}-4-methoxyphenyl)-2-propenoic acid methyl ester was dissolved in 50 ml of methanol and 20 ml of tetrahydrofuran. 0.41 g of 10% palladium carbon was added, followed by stirring for 64 hours at room temperature in hydrogen atmosphere. The catalyst was removed by filtration and washed with ethyl acetate. The filtrate was evaporated, to give 2.92 g of (2-amino)-3-(3-{[(t-butoxycarbonyl)amino]methyl}-4-methoxyphenyl)propionic acid methyl ester as a colorless oil.

reactant | ([(benzyloxy)carbonyl]amino}-3-(3-{[(t-butoxycarbonyl)amino]methyl}-4-methoxyphenyl)-2-propenoic acid methyl ester | COC(C(=CC1=CC(=C(C=C1)OC)CNC(=O)OC(C)(C)C)NC(=O)OCC1=CC=CC=C1)=O | C25H30N2O7
solvent | methanol | 50 ml | CO | CH4O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hydrogen | [H][H] | H2
catalyst | palladium carbon | 0.41 g | [C].[Pd]
product | (2-amino)-3-(3-{[(t-butoxycarbonyl)amino]methyl}-4-methoxyphenyl)propionic acid methyl ester | 2.92 g | COC(C(CC1=CC(=C(C=C1)OC)CNC(=O)OC(C)(C)C)N)=O | C17H26N2O5
